US08791119B2
To a solution of 3.28 g (7.26 mmol) of tert-butyl 6-chloro-7-(3-cyanophenyl)-8-(1H-imidazol-1-ylcarbonyl)-3,4-dihydropyrrolo[1,2-a]pyrazine-2(1H)-carboxylate in 4 ml of dimethylformamide in an autoclave are added 6 ml of 33% aqueous ammonia. The mixture is stirred for 3 hours at 110° C. and, after cooling, is then poured into 80 ml of water and the solid is separated out by filtration. The solid is taken up in dichloromethane, the solution is then dried over sodium sulfate and the solvent is evaporated off under reduced pressure to give 2.9 g of tert-butyl 8-carbamoyl-6-chloro-7-(3-cyanophenyl)-3,4-dihydropyrrolo[1,2-a]pyrazine-2(1H)-carboxylate after drying.

reactant | tert-butyl 6-chloro-7-(3-cyanophenyl)-8-(1H-imidazol-1-ylcarbonyl)-3,4-dihydropyrrolo[1,2-a]pyrazine-2(1H)-carboxylate | 7.26 mmol, 3.28 g | ClC1=C(C(=C2N1CCN(C2)C(=O)OC(C)(C)C)C(=O)N2C=NC=C2)C2=CC(=CC=C2)C#N | C23H22ClN5O3
reactant | ammonia | 6 ml | N | H3N
reactant | water | 80 ml | O | H2O
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | tert-butyl 8-carbamoyl-6-chloro-7-(3-cyanophenyl)-3,4-dihydropyrrolo[1,2-a]pyrazine-2(1H)-carboxylate | 2.9 g | C(N)(=O)C=1C(=C(N2C1CN(CC2)C(=O)OC(C)(C)C)Cl)C2=CC(=CC=C2)C#N | C20H21ClN4O3
